US06310211B1
5-Chloro-N-(4-chlorophenyl)-8-hydroxy-7-quinolinesulfonamide (Formula J-5 wherein R1=H, X1=Cl, and R2=4-ClC6H4) Refer to Chart J
The title compound is prepared from 5-chloro-N-(4-chlorophenyl)-8-methoxy-7-quinolinesulfonamide, which is the fist title compound of Preparation 9, and 6 equivalents of BBr3 according to the procedure described in Example 18. Crystallization from Et2O/hexane/CH2Cl2 affords 0.015 g of the title compound as a red-brown solid.

reactant | 5-chloro-N-(4-chlorophenyl)-8-methoxy-7-quinolinesulfonamide | ClC1=C2C=CC=NC2=C(C(=C1)S(=O)(=O)NC1=CC=C(C=C1)Cl)OC | C16H12Cl2N2O3S
reactant | BBr3 | 6 equivalents | B(Br)(Br)Br | BBr3
product | 5-Chloro-N-(4-chlorophenyl)-8-hydroxy-7-quinolinesulfonamide | 0.015 g | ClC1=C2C=CC=NC2=C(C(=C1)S(=O)(=O)NC1=CC=C(C=C1)Cl)O | C15H10Cl2N2O3S
